US04835202
(3,5-Di-tert-butyl-4-trimethylsilyloxyphenyl)diphenylphosphine
A stirred suspension of 20.0 g (56 mmol) of 4-bromo-2,6-di-tert-butylphenoxy(trimethyl)silane in 80 ml of dry tetrahydrofuran at -78° C. is admixed dropwise with 38 ml (56 mmol) of a 1.55M solution of n-butyllithium in hexane. The resulting homogeneous solution is stirred for 1 hour at -78° C. and then 12.36 g (56 mmol) of diphenylchlorophosphine is added dropwise. The reaction mixture is stirred for 24 hours at room temperature, and then the suspension of lithium chloride is removed by filtration. The solvent is removed in vacuo. The residue is dissolved in 250 ml of diethyl ether and extracted (3×250 ml) with water. The organic phase is dried over anhydrous sodium sulfate and evaporated in vacuo to give 27.8 grams of a yellow liquid. The crude product is purified by preparative HPLC (silica gel, 99:1 heptane:ethyl acetate eluent) to give 10.7 grams (41%) of a white solid, m.p. 76°-80° C.

reactant | 4-bromo-2,6-di-tert-butylphenoxy(trimethyl)silane | 56 mmol, 20.0 g | BrC1=CC(=C(O[Si](C)(C)C)C(=C1)C(C)(C)C)C(C)(C)C | C17H29BrOSi
reactant | n-butyllithium | C(CCC)[Li]
reactant | diphenylchlorophosphine | 56 mmol, 12.36 g | C1(=CC=CC=C1)P(Cl)C1=CC=CC=C1 | C12H10ClP
reactant | lithium chloride | [Cl-].[Li+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (3,5-Di-tert-butyl-4-trimethylsilyloxyphenyl)diphenylphosphine | 27.8 grams | C(C)(C)(C)C=1C=C(C=C(C1O[Si](C)(C)C)C(C)(C)C)P(C1=CC=CC=C1)C1=CC=CC=C1 | C29H39OPSi
